US05831092
To a mixed solution containing 100 mg (0.35 mmol) of N2 -acetyl-7-benzylguanine and 1 ml of DMF was added 72 mg (0.37 mmol) of (2-acetoxyethoxy)methyl bromide [prepared by the method described in M. J. Robins et al., Can. J. Chem., 60, 547 (1982)]. The mixture was heated at 80° C. for 20 h, and then allowed to cool. The reaction solution was concentrated, and purified by silica-gel column chromatography to yield 9-(2-acetoxyethoxy)methyl-7-benzyl-N2 -acetylguaninium bromide.

reactant | N2 acetyl-7-benzylguanine | 0.35 mmol, 100 mg | N#N.C(C)(=O)NC=1NC(C=2N(C=NC2N1)CC1=CC=CC=C1)=O
reactant | (2-acetoxyethoxy)methyl bromide | 0.37 mmol, 72 mg | C(C)(=O)OCCOCBr | C5H9BrO3
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 9-(2-acetoxyethoxy)methyl-7-benzyl-N2 -acetylguaninium bromide | [Br-].C(C)(=O)OCCOCN1C=2N=C([NH2+]C(C2N(C1)CC1=CC=CC=C1)=O)NC(C)=O | InChI=1S/C19H23N5O5.BrH/c1-13(25)20-19-21-17-16(18(27)22-19)23(10-15-6-4-3-5-7-15)11-24(17)12-28-8-9-29-14(2)26;/h3-7H,8-12H2,1-2H3,(H2,20,21,22,25,27);1H
